US07247646B2
G. 3-(2,4-Dichlorophenyl)-7-hydroxy-8-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one
A mixture of 3-(2,4-dichlorophenyl)-7-hydroxy-8-iodo-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one (1.85 g, 2.91 mmol), K2CO3 (1.21 g, 8.75 mmol), trimethylboroxine (427 μL, 3.05 mmol) and Pd(Ph3P)4 (336 mg, 0.29 mmol) in anhydrous dioxane (22 mL) was stirred at reflux temperature for 2.5 h. After cooling the resultant green suspension to room temperature, the solvent was removed in vacuo. The resultant residue was dissolved in CH2Cl2, and the organic layer was washed with H2O and brine, dried (MgSO4) concentrated in vacuo. The resultant residue was purified using flash chromatography (125 g silica gel, 8:0.5:0.5→7:0.5:0.5 CH2Cl2:MeOH:AcOEt→9:1 CH2Cl2:MeOH) to afford a yellow solid that was further purified using reverse phase HPLC (followed by an extraction with CH2Cl2/NaHCO3). The title compound was isolated as a yellow solid (220.4 mg, 14%). 1H NMR (300 MHz, CDCl3) δ 7.48 (d, J=2.0 Hz, 1H), 7.24 (dd, J=2.0, 8.0 Hz, 1H), 7.18 (d, J=8.8 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 6.90 (d, J=8.8 Hz, 2H), 6.84 (d, J=8.8 Hz, 1H), 6.72 (d, J=8.8 Hz, 2H), 4.23 (t, J=5.0 Hz, 2H), 4.00 (d, J=15.5 Hz, 1H), 3.74 (d, J=15.5 Hz, 1H), 3.24 (t, J=5.0 Hz, 2H), 3.15–3.04 (m, 4H), 2.20 (s, 3H), 2.05–1.93 (m, 4H); MS (ESI) m/z 523.8 (M)+; HPLC tR 4.74 min.

reactant | 3-(2,4-dichlorophenyl)-7-hydroxy-8-iodo-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | 2.91 mmol, 1.85 g | ClC1=C(C=CC(=C1)Cl)C=1C(OC2=C(C(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)O)I)=O | C28H24Cl2INO4
reactant | K2CO3 | 8.75 mmol, 1.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylboroxine | 3.05 mmol, 427 μL | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.29 mmol, 336 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2,4-Dichlorophenyl)-7-hydroxy-8-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | ClC1=C(C=CC(=C1)Cl)C=1C(OC2=C(C(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)O)C)=O | C29H27Cl2NO4
